US07572820B2
1-{[5-(3-Bromo-4-fluorophenyl)-1,2,4-oxadiazol-3-yl]methyl}-4-(trifluoromethyl)-1H-indole-5-carbonitrile
Synthesized as described in Example 72 from 2-[5-cyano-4-(trifluoromethyl)-1H-indol-1-yl]-N-hydroxyethanimidamide and 3-bromo-4-fluorobenzoic acid: MS (ESI): m/z 465 (M+1).

reactant | 2-[5-cyano-4-(trifluoromethyl)-1H-indol-1-yl]-N-hydroxyethanimidamide | C(#N)C=1C(=C2C=CN(C2=CC1)CC(NO)=N)C(F)(F)F | C12H9F3N4O
reactant | 3-bromo-4-fluorobenzoic acid | BrC=1C=C(C(=O)O)C=CC1F | C7H4BrFO2
product | 1-{[5-(3-Bromo-4-fluorophenyl)-1,2,4-oxadiazol-3-yl]methyl}-4-(trifluoromethyl)-1H-indole-5-carbonitrile | BrC=1C=C(C=CC1F)C1=NC(=NO1)CN1C=CC2=C(C(=CC=C12)C#N)C(F)(F)F | C19H9BrF4N4O
